US08293768B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-2-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with pyridin-3-ylmethanamine, the title compound was obtained as a colorless solid in 64% yield: mp 148-151° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.54 (d, J=4.9 Hz, 1H), 7.70-7.64 (m, 1H), 7.31-7.23 (m, 1H), 7.21-7.18 (m, 1H), 7.11-7.09 (m, 1H), 4.69 (d, J=4.9 Hz, 2H), 4.15-4.09 (m, 2H), 3.73-3.67 (m, 2H), 3.19 (d, J=7.1 Hz, 2H), 2.64 (s, 3H), 1.00-0.91 (m, 1H), 0.60-0.54 (m, 2H), 0.27-0.22 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 162.6, 157.8, 155.9, 155.2, 152.4, 148.8, 136.8, 122.4, 122.0, 117.8, 48.6, 44.6, 42.3, 42.1, 17.2, 8.9, 3.4; MS (ES+) m/z 372.3 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-2-ylmethyl)thiazole-5-carboxamide | 64% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=NC=CC=C1)=O | C18H21N5O2S
